US08614206B2
To a solution of benzyl 4-azido-5-hydroxyazepane-1-carboxylate (1.4 g, 4.83 mmol) in THF/water (30 mL/6 mL) was added triphenylphosphine (1.26 g, 4.83 mmol) and the reaction mixture was heated at 60° C. for 16 hr. EtOAc (100 mL) was added and the mixture was washed with water (20 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. The resulting oil was triturated in Et2O, the resulting solid was filtered off and the filtrate concentrated under reduced pressure to give a yellow oil. To a solution of this oil in dry DCM (20 mL) at 0° C. was added DIPEA (2.5 mL, 14.4 mmol) and trifluoroacetic anhydride (1.0 mL, 7.22 mmol) took place. The reaction mixture was allowed to warm to room temperature and stirred for 16 hr. Water (20 mL) was added and the mixture extracted with DCM (100 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (50% EtOAc/isohexane) gave benzyl 4-hydroxy-5-(2,2,2-trifluoroacetamido)azepane-1-carboxylate as a golden-yellow viscous oil (934 mg, 54% over 2 steps). 1H NMR (400 MHz, CDCl3) δ 7.40-7.29 (m, 5H), 6.49 (s, 1H), 5.20-5.11 (m, 2H), 3.94-3.25 (m, 6H), 2.35-1.65 (m, 5H).

reactant | benzyl 4-azido-5-hydroxyazepane-1-carboxylate | 4.83 mmol, 1.4 g | N(=[N+]=[N-])C1CCN(CCC1O)C(=O)OCC1=CC=CC=C1 | C14H18N4O3
reactant | triphenylphosphine | 4.83 mmol, 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIPEA | 14.4 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 7.22 mmol, 1.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF water | 30 mL | C1CCOC1.O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | benzyl 4-hydroxy-5-(2,2,2-trifluoroacetamido)azepane-1-carboxylate | OC1CCN(CCC1NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C16H19F3N2O4
